US05767132
Analogously to Example 7 a solution of 2.3 g sodium phenolate and 2.5 g N-3-chloropropyl-N-[5-(4-fluorophenyl)-3-pyridylmethyl]-amine [obtainable by reaction of 3-hydroxypropylamine with 3-chloromethyl-5-(4-fluorophenyl)-pyridine and subsequent transformation of the product to the 3-chloropropyl-compound by reaction with PCl3 ] in 200 ml of acetonitrile is stirred for 5 hours at room temperature and worked up in a conventional manner to give N-(3-phenoxy-propyl)-N-[5-(4-fluorophenyl)-3-pyridyl-methyl]-amine. Stirring with Q5 equivalents of oxalic acid in 100 ml ethanol/water mixture gives the oxalate-hemihydrate, m.p. 217°.

reactant | sodium phenolate | 2.3 g | C1(=CC=CC=C1)[O-].[Na+]
reactant | N-3-chloropropyl-N-[5-(4-fluorophenyl)-3-pyridylmethyl]-amine | 2.5 g | ClCCCNCC=1C=NC=C(C1)C1=CC=C(C=C1)F | C15H16ClFN2
reactant | 3-hydroxypropylamine | OCCCN | C3H9NO
reactant | 3-chloromethyl-5-(4-fluorophenyl)-pyridine | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)F | C12H9ClFN
reactant | PCl3 | P(Cl)(Cl)Cl | Cl3P
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-(3-phenoxy-propyl)-N-[5-(4-fluorophenyl)-3-pyridyl-methyl]-amine | O(C1=CC=CC=C1)CCCNCC=1C=NC=C(C1)C1=CC=C(C=C1)F | C21H21FN2O
